US07781598B2
Sodium methoxide in methanol (4.1 kg, 25% w/w, 19 mol) was added to a stirred suspension of 2-methyl-4-nitro-1H-indole (1.52 kg, 8.6 mol) and bis(p-chlorophenyl)disulphide (2.48 kg, 8.6 mol) in methanol (6.47 kg) followed by a methanol line rinse (0.67 kg). The mixture was then heated at 60-65° C. for 3.5 hours. Water (6.1 kg) was added to the reaction mixture, which was then cooled to 20° C. and stirred at this temperature for 7 minutes. The solid was collected by filtration, washed with water (2×4 kg) followed by ethyl acetate (2×4 kg) then dried in a vacuum oven at 40° C. 3-(4-Chlorophenylsulfanyl)-2-methyl-4-nitro-1H-indole was obtained as a bright yellow solid, 2.57 kg (93% yield).

reactant | Sodium methoxide | C[O-].[Na+]
reactant | 2-methyl-4-nitro-1H-indole | 8.6 mol, 1.52 kg | CC=1NC2=CC=CC(=C2C1)[N+](=O)[O-] | C9H8N2O2
reactant | bis(p-chlorophenyl)disulphide | 8.6 mol, 2.48 kg | ClC1=CC=C(C=C1)SSC1=CC=C(C=C1)Cl | C12H8Cl2S2
solvent | methanol | 6.47 kg | CO | CH4O
solvent | methanol | 19 mol, 4.1 kg | CO | CH4O
product | 3-(4-Chlorophenylsulfanyl)-2-methyl-4-nitro-1H-indole | 93% yield | ClC1=CC=C(C=C1)SC1=C(NC2=CC=CC(=C12)[N+](=O)[O-])C | C15H11ClN2O2S
